US03950522
By the procedure of Example 7, 2-benzyl-2-(2-pyridyl)thioacetamide is reacted with allylamine to give N-allyl-2-benzyl-2-(2-pyridyl)thioacetamide.

reactant | 2-benzyl-2-(2-pyridyl)thioacetamide | C(C1=CC=CC=C1)C(C(=S)N)C1=NC=CC=C1 | C14H14N2S
reactant | allylamine | C(C=C)N | C3H7N
product | N-allyl-2-benzyl-2-(2-pyridyl)thioacetamide | C(C=C)NC(C(C1=NC=CC=C1)CC1=CC=CC=C1)=S | C17H18N2S
